US05854257
A mixture of 2-chloronicotinic acid (30.0 g) and 4-chlorobenzylamine (45 ml) was heated at 120° C. for 3.5 hours. The mixture was cooled to ambient temperature and the solid obtained was washed with water and collected by filtration. The solid was boiled in methanol and filtered to give 2-(4-chlorobenzylamino)-nicotinic acid, m.p. 240°-242° C.

reactant | 2-chloronicotinic acid | 30.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4-chlorobenzylamine | 45 ml | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 2-(4-chlorobenzylamino)-nicotinic acid | ClC1=CC=C(CNC2=C(C(=O)O)C=CC=N2)C=C1 | C13H11ClN2O2
